Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
oxycodone / cefazolin
 
Attending: ___.
 
Chief Complaint:
Planned blinatumomab initiation 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female with h/o sarcoid, HTN, and T2DM who presented with
facial numbness and found to have Ph+ ALL (normal cytogenetics)
with CNS involvement. She was initially treated with steroids 
and
desatinib. Once she achieved hematologic remission d/c home with
ongoing treatment. On bone marrow biopsy on D+ 23 consistent 
with
remission. Induction complicated by depression/anxiety, and
uncontrolled DM requiring insulin. HLA typing done without
matched unrelated donor found. TKI maintenance changed from
dasatinib to nolotinib 400mg BID when PCR became detectable and
developed recurrent pleural effusions and planned to start
blinatumomab. Most recent PCR undetectable. Initially was coming
for planned admission for blinatumomab, but given increase in
indirect bilirubin (known side effect of nolotinib) will hold 
TKI
for now and decide on blinatumomab moving forward.

Overall has been fatigued and has had mild rib pain that she
attributes to her pleural effusions, for which she has had
multiple thoracenteses. She did mention that she had abdominal
pain in the past that radiated to her chest area, which was
thought to be gallstones. Otherwise, she has mild SOB with
stairs, but can walk ~1 mile on flat ground. She also has a dry
cough, but denies fevers or chills. She also denies N/V/D/C.

 
Past Medical History:
HTN  
DM  
HL  
Sarcoid  
 

 
Social History:
___
Family History:
Mother and father had strokes and cardiac disease, brother died
of head/neck cancer and his grandson had AML
 
Physical Exam:
===============
ADMISSION EXAM:
===============
Vitals: ___ 1445 Temp: 98.2 PO BP: 125/70 R Sitting HR: 65
RR: 17 O2 sat: 97% O2 delivery: Ra 
Gen: Pleasant, calm  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: JVP not appreciated at 90 degrees.
LYMPH: No cervical or supraclav LAD
CV: Normocardic, regular. Normal S1,S2. ___ systolic murmur best
heard at ___  
LUNGS: No increased WOB. CTAB. No wheezes, crackles, or rhonchi. 


===============
DISCHARGE EXAM:
===============
97.8 116/71 63 18 97 RA 
Gen: Pleasant, calm  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear. Mild
edema to R earlobe. 
NECK: JVP not appreciated at 90 degrees.
LYMPH: No cervical or supraclav LAD
CV: Normocardic, regular. Normal S1,S2. ___ systolic murmur best
heard at ___  
LUNGS: No increased WOB. CTAB. No wheezes, crackles, or rhonchi. 

ABD: NABS. Soft, NT, ND.  
EXT: WWP. No ___ edema. 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  
NEURO: A&Ox3. Strength ___ in all muscle groups. CN2-XII intact.
Moving all extremities with normal cerebellar exam and tests of
attention.
LINES: Port 
 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 12:00AM   GLUCOSE-258* UREA N-16 CREAT-0.8 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-99 TOTAL CO2-25 ANION GAP-13
___ 12:00AM   estGFR-Using this
___ 12:00AM   ALT(SGPT)-47* AST(SGOT)-32 LD(___)-184 ALK 
PHOS-91 TOT BILI-2.7* DIR BILI-0.7* INDIR BIL-2.0
___ 12:00AM   ALBUMIN-4.0 CALCIUM-9.1 PHOSPHATE-3.5 
MAGNESIUM-2.1 URIC ACID-3.1
___ 12:00AM   WBC-4.4 RBC-3.31* HGB-9.9* HCT-30.9* MCV-93 
MCH-29.9 MCHC-32.0 RDW-15.0 RDWSD-51.3*
___ 12:00AM   NEUTS-65.5 LYMPHS-14.7* MONOS-15.2* EOS-3.6 
BASOS-0.5 IM ___ AbsNeut-2.90 AbsLymp-0.65* AbsMono-0.67 
AbsEos-0.16 AbsBaso-0.02
___ 12:00AM   PLT COUNT-175
___ 12:00AM   ___ PTT-27.1 ___
___ 12:00AM   ___ 12:40PM   UREA N-18 CREAT-0.9 SODIUM-142 POTASSIUM-4.2 
CHLORIDE-102 TOTAL CO2-26 ANION GAP-14
___ 12:40PM   ALT(SGPT)-51* AST(SGOT)-36 LD(___)-197 ALK 
PHOS-104 TOT BILI-3.9*
___ 12:40PM   DIR BILI-0.7*
___ 12:40PM   TOT PROT-8.4* ALBUMIN-4.8 GLOBULIN-3.6 
CALCIUM-9.8 PHOSPHATE-3.1 MAGNESIUM-2.1
___ 12:40PM   HAPTOGLOB-193
___:40PM   IgG-1521
___ 12:40PM   WBC-4.1 RBC-3.53* HGB-10.6* HCT-32.7* MCV-93 
MCH-30.0 MCHC-32.4 RDW-14.8 RDWSD-49.9*
___ 12:40PM   NEUTS-64.2 LYMPHS-18.5* MONOS-12.7 EOS-3.7 
BASOS-0.7 IM ___ AbsNeut-2.63 AbsLymp-0.76* AbsMono-0.52 
AbsEos-0.15 AbsBaso-0.03
___ 12:40PM   PLT COUNT-196
___ 12:40PM   ___ PTT-28.2 ___

==================
MICROBIOLOGY DATA:
=================
__________________________________________________________
___ 1:49 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 12:44 pm BLOOD CULTURE      Source: Line-poc medial 
port X1. 

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 1:08 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 3:20 pm SEROLOGY/BLOOD      Source: Line-PORT. 

                            **FINAL REPORT ___

   VARICELLA-ZOSTER IgG SEROLOGY (Final ___: 
      POSITIVE BY EIA. 
      A positive IgG result generally indicates past exposure 
and/or
      immunity. 

========
STUDIES:
========
Bilateral upper extremity veins ___: Please note that this 
is a limited evaluation of bilateral internal jugular veins. No 
evidence of deep vein thrombosis in the bilateral internal 
jugular 
veins. 

Homozygous UGT1A1 (TA)7 ___: Two copies of the UGT1A1 *28 
(TA)7
variant were detected. This is associated with decreased UGT1A1
enzyme and increased risk for irinotecan toxicity, namely,
neutropenia and diarrhea. Dose reduction is recommended. This
genotype has been reported to be associated with ___
syndrome (benign familial hyperbilirubinemia).

===============
DISCHARGE LABS:
===============
___ 12:00AM BLOOD WBC-5.1 RBC-3.59* Hgb-10.4* Hct-32.7* 
MCV-91 MCH-29.0 MCHC-31.8* RDW-14.6 RDWSD-48.8* Plt ___
___ 12:00AM BLOOD Neuts-82.4* Lymphs-9.9* Monos-5.6 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-6.13* AbsLymp-0.74* 
AbsMono-0.42 AbsEos-0.00* AbsBaso-0.01
___ 12:00AM BLOOD Glucose-159* UreaN-19 Creat-0.7 Na-140 
K-4.1 Cl-102 HCO3-25 AnGap-13
___ 12:00AM BLOOD ALT-92* AST-57* LD(LDH)-175 AlkPhos-101 
TotBili-0.7
___ 12:00AM BLOOD Calcium-8.9 Phos-3.7 Mg-2.3
 
Brief Hospital Course:
==================
SUMMARY STATEMENT:
==================
___ y/o female with h/o sarcoid, HTN, and T2DM who presented with
facial numbness and found to have Ph+ ALL (normal cytogenetics)
with CNS involvement admitted for blinatumomab initiation.

==============
ACTIVE ISSUES:
==============
# Ph+ ALL: (normal cytogenetics) with CNS involvement. She was
initially treated with steroids and desatinib. Initially 
achieved
hematologic remission on desatinib, but TKI maintenance changed
from dasatinib to nolotinib 400mg BID when PCR became detectable
and developed recurrent pleural effusions and planned to start
blinatumomab. Given increase in indirect bilirubin (known side
effect of nolotinib and bili has normalized off TKI in past) 
TKIs were initially held due to concern for altered 
glucuronidataion. She started blinatumomab ___. Bilirubin 
improved during this admission and nilotinib was restarted 
___. Subsequently she had mild CNS toxicity on higher dose 
Blinatumomab 28 mg IV infusion (___) which resolved 
after cessation of the infusion.

# Type 2 diabetes mellitus: followed by ___. Continues on
Metformin as outpatient. She received insulin during her 
inpatient stay per ___ recommendations. TKIs may affect 
insulin secretion and she will require outpatient followup of 
her glucose control.

# Anemia: Transferrin sat is 11% and B12 wnl. Will receive 
transfusion PRN.

# NAFLD
# HLD: Held rosuvastatin during treatment to avoid potential 
liver toxicity.

# Hypertension continued home lisinopril.

# Anxiety/ depression: Continue home meds.
-Lorazepam 0.5mg PO Q6H PRN anxiety/insomnia
-Citalopram 20mg PO daily 

# GERD: Continue home famotidine 20mg PO daily PRN GERD

# Constipation: uses senna, colace, prune juice at home. Bowel
reg as in core measures. 

# Vit D deficiency: Continued vit D 2000u daily 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO BID 
2. Citalopram 20 mg PO DAILY 
3. nilotinib 400 mg oral BID 
4. Famotidine 20 mg PO DAILY:PRN GERD 
5. Lisinopril 10 mg PO DAILY 
6. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
7. Rosuvastatin Calcium 5 mg PO QPM 
8. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Pain - 
Moderate 
Use for headache. Do not exceed 6 tablets/day. 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth Every 6 hours Disp #*20 Tablet Refills:*0 
2.  Acyclovir 400 mg PO BID  
3.  Citalopram 20 mg PO DAILY  
4.  Famotidine 20 mg PO DAILY:PRN GERD  
5.  Lisinopril 10 mg PO DAILY  
6.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
7.  nilotinib 400 mg oral BID  
8.  Vitamin D ___ UNIT PO DAILY  
9. HELD- Rosuvastatin Calcium 5 mg PO QPM  This medication was 
held. Do not restart Rosuvastatin Calcium until discussed with 
your outpatient oncologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
==================
Acute lymphocytic leukemia 
Hyperbilirubinemia

Secondary Diagnosis:
====================
Type II Diabetes
Anemia
Non alcoholic fatty liver disease
HLD
HTN
Anxiety
Depression 
GERD
Constipation 
VIt D deficiency 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted for treatment for your leukemia that must be 
monitored in the hospital

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You tolerated treatment well with a slight headache and low 
grade fever. You had some mental status changes requiring a 
change in your medication dose, and your symptoms then improved.

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue taking your medications as prescribed and 
go to your scheduled appointments 
- You should follow up with your outpatient oncologist 

We wish you the best,
Your ___ care team

 
Followup Instructions:
___